US09278973B2
To a solution of 3-(pyridin-2-yl)-1H-1,2,4-triazol-5-amine (150 mg, 0.93 mmol) in diphenyl ether (3 mL) was added ethyl 3-(1-acetyl-1H-indazol-5-yl)-3-oxopropanoate (510 mg, 1.86 mmol) and TsOH (8 mg, 0.05 mmol), and the mixture was stirred for 1 h at 170° C. The resulting solution was diluted with n-hexane (8 ml), and the product was collected by filtration and washed with methanol (2 ml) to afford 5-(1-acetyl-1H-indazol-5-yl)-2-(pyridin-2-yl)-4H,7H-[1,2,4]triazolo[1,5-α]pyrimidin-7-one as a brown crude solid (120 mg, crude).

reactant | 3-(pyridin-2-yl)-1H-1,2,4-triazol-5-amine | 0.93 mmol, 150 mg | N1=C(C=CC=C1)C1=NNC(=N1)N | C7H7N5
reactant | ethyl 3-(1-acetyl-1H-indazol-5-yl)-3-oxopropanoate | 1.86 mmol, 510 mg | C(C)(=O)N1N=CC2=CC(=CC=C12)C(CC(=O)OCC)=O | C14H14N2O4
reactant | TsOH | 0.05 mmol, 8 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | diphenyl ether | 3 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | n-hexane | 8 ml | CCCCCC | C6H14
product | 5-(1-acetyl-1H-indazol-5-yl)-2-(pyridin-2-yl)-4H,7H-[1,2,4]triazolo[1,5-α]pyrimidin-7-one | C(C)(=O)N1N=CC2=CC(=CC=C12)C=1NC=2N(C(C1)=O)N=C(N2)C2=NC=CC=C2 | C19H13N7O2
